US08859591B2
A solution of 2-(4-methoxy-2-methylphenyl)-2H-indazole (500 mg, 2.1 mmol) in dichloromethane (10 mL) was cooled to −78° C. Added boron tribromide (2.6 g, 10.5 mmol) and reaction was stirred at −78° C. for 1 hour. Reaction was warmed to room temperature are stirred overnight. The reaction was diluted with methanol and water, and extracted with ethyl acetate (3×30 mL). The combined organics were washed with water and brine, dried over sodium sulfate, filtered, and concentrated to give 4-(2H-indazol-2-yl)-3-methylphenol (350 mg, 74%) as a yellow solid. 1H NMR (400 MHz, DMSO-d6, δ): 9.82 (s, 1H), 8.51 (s, 1H), 7.76 (d, J=8.4 Hz, 1H), 7.68 (d, J=8.8 Hz, 1H), 7.25-7.30 (m, 2H), 7.07-7.11 (m, 1H), 6.80 (d, J=2.4 Hz, 1H), 6.75 (dd, J=8.4, 2.4 Hz, 1H), 2.06 (s, 3H).

reactant | 2-(4-methoxy-2-methylphenyl)-2H-indazole | 2.1 mmol, 500 mg | COC1=CC(=C(C=C1)N1N=C2C=CC=CC2=C1)C | C15H14N2O
reactant | boron tribromide | 10.5 mmol, 2.6 g | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 4-(2H-indazol-2-yl)-3-methylphenol | 350 mg, 74% | N=1N(C=C2C=CC=CC12)C1=C(C=C(C=C1)O)C | C14H12N2O
